US05658903
b) 2-Chloro-4-pyridinecarboxaldehyde
A suspension of 2-chloro-4-pyridinemethanol (8.0 g, 55.9 mmol), NBS (14.9 g, 83.9 mmol), and K2CO3 (11.75 g, 97.1 mmol) in EtOAc was refluxed for 3 h. A Second portion of NBS (14.9 g, 83.9 mmol) and Na2CO3 (12.0 g, 114 mmol) were added and the reaction was heated to reflux for an additional 3.5 h, cooled and filtered through a pad of celite. The filtrate, after concentrattion to a small volume, was subjected to flash chromatography eluting with 0.5-4% CH3OH/CH2Cl2. The fractions containing product were combined, washed successively with sat aq NaHCO3 10% Na2S2O3, and brine, dried (MgSO4) and concentrated in vacuo to give the title compound as a light yellow solid; yield 5.3 g (67%). 1H NMR (CDCl3) δ 10.06 (s, 1H), 8.66 (d, 1H, J=5.0 Hz), 7.76 (s, 1H), 7.66 (d, 1H, J=5.0 Hz).

reactant | 2-chloro-4-pyridinemethanol | 55.9 mmol, 8.0 g | ClC1=NC=CC(=C1)CO | C6H6ClNO
reactant | NBS | 83.9 mmol, 14.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | K2CO3 | 97.1 mmol, 11.75 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NBS | 83.9 mmol, 14.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Na2CO3 | 114 mmol, 12.0 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Chloro-4-pyridinecarboxaldehyde | ClC1=NC=CC(=C1)C=O | C6H4ClNO
